US06211215B1
In substantially the same manner as in Reference Example 31, ethyl succinamidate was allowed to react with 1,3-dichloroacetone to give ethyl 4-chloromethyl-2-oxazolepropionate as an oily product. The yield was 7.2%.

reactant | ethyl succinamidate | C(CCC(=O)OCC)(=O)N | C6H11NO3
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | ethyl 4-chloromethyl-2-oxazolepropionate | yield was 7.2% | ClCC=1N=C(OC1)CCC(=O)OCC | C9H12ClNO3
